US08563575B2
134c) ethyl (2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)acetate
To a solution of ethyl N-(3-aminopyridin-2-yl)glycinate (18 g) in THF (200 mL) was added CDI (15 g) at room temperature, and the mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure. The residual crystals were washed with AcOEt to give the title compound (5.5 g).

reactant | ethyl N-(3-aminopyridin-2-yl)glycinate | 18 g | NC=1C(=NC=CC1)NCC(=O)OCC | C9H13N3O2
reactant | CDI | 15 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | ethyl (2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)acetate | 5.5 g | O=C1NC=2C(=NC=CC2)N1CC(=O)OCC | C10H11N3O3
